US05492929
5-Chloro-N-(2,6-diethoxyphenyl)-3-(2-methoxyphenyl)-1-methyl-2-indoleacetamide
5-Chloro-3-(2-methoxyphenyl)-1-methylindole-2-acetic acid was reacted with 2,6-diethoxyaniline by a method similar to Example 6 to give the title compound as colorless crystals.

reactant | 5-Chloro-3-(2-methoxyphenyl)-1-methylindole-2-acetic acid | ClC=1C=C2C(=C(N(C2=CC1)C)CC(=O)O)C1=C(C=CC=C1)OC | C18H16ClNO3
reactant | 2,6-diethoxyaniline | C(C)OC1=C(N)C(=CC=C1)OCC | C10H15NO2
product | 5-Chloro-N-(2,6-diethoxyphenyl)-3-(2-methoxyphenyl)-1-methyl-2-indoleacetamide | ClC=1C=C2C(=C(N(C2=CC1)C)CC(=O)NC1=C(C=CC=C1OCC)OCC)C1=C(C=CC=C1)OC | C28H29ClN2O4
